US05753680
A solution of 2.54 g of guanidine and 2.41 g of methyl 2-methyl-4-(1-imidazolyl)-5-methylsulfonylbenzoate [obtainable by reacting 2-methyl-4-chloro-5-methyl-sulfonylbenzoic acid with imidazole in the presence of NaH in N-methylpyrrolidone followed by esterification] in 20 ml of methanol is stirred at 500 for 3 hours. Water is then added to the reaction mixture, and the crude product which precipitates out is filtered off with suction and recrystallized from methanol. N-Diaminomethylene-2-methyl-4-(1-imidazolyl)-5-methyl-sulfonylbenzamide, m.p. 236°, is obtained.

reactant | guanidine | 2.54 g | NC(=N)N | CH5N3
reactant | methyl 2-methyl-4-(1-imidazolyl)-5-methylsulfonylbenzoate | 2.41 g | CC1=C(C(=O)OC)C=C(C(=C1)N1C=NC=C1)S(=O)(=O)C | C13H14N2O4S
reactant | 2-methyl-4-chloro-5-methyl-sulfonylbenzoic acid | CC1C(C(=O)O)=CC(=C(C1=S(=O)=O)Cl)C | C9H9ClO4S
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | NaH | [H-].[Na+]
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | methanol | 20 ml | CO | CH4O
solvent | Water | O | H2O
product | N-Diaminomethylene-2-methyl-4-(1-imidazolyl)-5-methyl-sulfonylbenzamide | NC(=NC(C=1C(C(C(=C(C1)C)N1C=NC=C1)=S(=O)=O)C)=O)N | C13H15N5O3S
